US07220862B2
(±)-3-(6-Methoxy-pyridin-3-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
To a solution of 2-amino-3-(6-methoxy-pyridin-3-yl)-propionic acid methyl ester (130 mg) and diisopropylethylamine (0.3 mL) in methylene chloride (2 mL, 0° C.) was added N,N′-disuccinimidyl carbonate (158 mg). After 30 min, 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (120 mg) in methylene chloride (1 mL) was added via canula. The reaction was warmed to room temperature and stirred overnight. The reaction was concentrated and purified by prep HPLC to give 160 mg (55%). Mass spec.: 468.19 (MH)+.

reactant | 2-amino-3-(6-methoxy-pyridin-3-yl)-propionic acid methyl ester | 130 mg | COC(C(CC=1C=NC(=CC1)OC)N)=O | C10H14N2O3
reactant | diisopropylethylamine | 0.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N′-disuccinimidyl carbonate | 158 mg | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 120 mg | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(6-Methoxy-pyridin-3-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=NC(=CC1)OC)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C24H29N5O5
